US08071586B2
(R)-4-[(S)-3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-propyl]-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid (3-chloro-phenyl)-amide
In analogy to the procedure described in intermediate 6A, (S)-2-[(R)-4-(3-chloro-phenylcarbamoyl)-3-methyl-7-oxo-[1,4]diazepan-1-yl]-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-butyric acid methyl ester was reduced with lithium borohydride (2 h) to give 46% of the title compound as white solid. MS: 479.4 (MH+, 1Cl).

reactant | (S)-2-[(R)-4-(3-chloro-phenylcarbamoyl)-3-methyl-7-oxo-[1,4]diazepan-1-yl]-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-butyric acid methyl ester | COC([C@H](CCN1C[C@H](C2(CC2)CC1)O)N1C[C@H](N(CCC1=O)C(NC1=CC(=CC=C1)Cl)=O)C)=O | C25H35ClN4O5
reactant | lithium borohydride | [BH4-].[Li+]
product | (R)-4-[(S)-3-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-1-hydroxymethyl-propyl]-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid (3-chloro-phenyl)-amide | 46% | ClC=1C=C(C=CC1)NC(=O)N1[C@@H](CN(C(CC1)=O)[C@@H](CCN1C[C@H](C2(CC2)CC1)O)CO)C | C24H35ClN4O4
